US05073574
(a) 1-Methyl-1H-benzotriazole-6-carboxylic acid methyl ester
Benzotriazole-6-carboxylic acid methyl ester is reacted with methyl iodide, yielding the title compound (in addition to the isomeric 2-methyl-2H and 3-methyl-3H compounds).

reactant | Benzotriazole-6-carboxylic acid methyl ester | COC(=O)C1=CC=C2C(=NN=N2)C1 | C8H7N3O2
reactant | methyl iodide | CI | CH3I
product | 1-Methyl-1H-benzotriazole-6-carboxylic acid methyl ester | COC(=O)C=1C=CC2=C(N(N=N2)C)C1 | C9H9N3O2
